US07572809B2
g) Preparation of (1-Chloro-6,8-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine
A mixture of 6,8-Dimethoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol (0.4 g, 1.33 mmol) in POCl3 (4 ml), were sealed in microwave process vials (5 ml). The mixture was heated at 140° C. for 75 minutes under microwave irradiation. The mixture was concentrated, and the residue was treated with 1 ml MeOH. The solid was collected and dried to give desired product (0.2 g, 47.28%). LC-MS: m/e 319 (MH+).

reactant | 6,8-Dimethoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol | 1.33 mmol, 0.4 g | COC=1C=C2C=C(N=C(C2=C(C1)OC)O)NC1=NNC(=C1)C | C15H16N4O3
reactant | POCl3 | 4 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (1-Chloro-6,8-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 0.2 g, 47.28% | ClC1=NC(=CC2=CC(=CC(=C12)OC)OC)NC1=NNC(=C1)C | C15H15ClN4O2
